US07105553B2
Methyl [4-(2-pyridinyl)phenyl]acetate
Under argon, 7.85 g (34.3 mmol) of methyl 4-bromophenylacetate are initially charged in 95 ml of toluene and, at room temperature, admixed with 7.97 g (61.7 mmol) of diisopropylethylamine, 9.50 g (37.7 mmol) of 2-trimethyl-stannylpyridine and 0.4 g (0.3 mmol) of tetrakis(triphenylphosphane)palladium(0). The mixture is then heated under reflux for 18 h. After cooling, the mixture is washed with in each case 100 ml of 1N hydrochloric acid and saturated sodium bicarbonate solution. The organic phase is discarded. The acidic and the basic aqueous phase are neutralized and in each case extracted with 100 ml of dichloromethane, and the combined organic phases are dried over sodium sulphate and freed from the solvent under reduced pressure. Example VII is obtained after silica gel chromatography (toluene/ethyl acetate gradient 5:1-1:1) as a colourless oil.

reactant | methyl 4-bromophenylacetate | 34.3 mmol, 7.85 g | BrC1=CC=C(C=C1)CC(=O)OC | C9H9BrO2
reactant | diisopropylethylamine | 61.7 mmol, 7.97 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl [4-(2-pyridinyl)phenyl]acetate | N1=C(C=CC=C1)C1=CC=C(C=C1)CC(=O)OC | C14H13NO2
